US08053572B2
Step 2: 5-Fluoro-N-[2-(1-hydroxy-1,3-dimethybutyl)phenyl]-1,3-dimethyl-1-H-pyrazole-4-carboxamide
Under argon and with stirring at −10° C., N-(2-acetylphenyl)-5-fluoro-1,3-dimethyl-1H-pyrazole-4-carboxamide (as a solid, 10 g, 36.3 mmol) and isobutylmagnesium chloride (as a 2 M solution in THF, 41.7 ml; 83.55 mmol) are added simultaneously and continuously to 400 ml of toluene over a period of 150 minutes. The mixture is allowed to warm to room temperature, 200 ml of ammonium chloride solution are added, the mixture is extracted three times with in each case 100 ml of ethyl acetate and the organic phases are dried using sodium sulphate and concentrated under reduced pressure. This gives 5-fluoro-N-[2-(1-hydroxy-1,3-dimethylbutyl)phenyl]-1,3-dimethyl-1H-pyrazole-4-carboxamide (14.2 g, purity (GC/MS) 72.8%; 85% of theory) which still contains 14% of starting material.

reactant | N-(2-acetylphenyl)-5-fluoro-1,3-dimethyl-1H-pyrazole-4-carboxamide | C(C)(=O)C1=C(C=CC=C1)NC(=O)C=1C(=NN(C1F)C)C | C14H14FN3O2
reactant | isobutylmagnesium chloride | C(C(C)C)[Mg]Cl
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
product | 5-Fluoro-N-[2-(1-hydroxy-1,3-dimethybutyl)phenyl]-1,3-dimethyl-1-H-pyrazole-4-carboxamide | FC1=C(C(=NN1C)C)C(=O)NC1=C(C=CC=C1)C(CC(C)C)(C)O | C18H24FN3O2
